US07763639B2
2-PIPERIDIN-4-YL-6-(TRIFLUOROMETHYL)PHENOL
Preparation according to Example 29: 4-[2-methoxy-3-(trifluoromethyl)phenyl]piperidine (0.07 g, 0.27 mmol), pyridine hydrochloride (0.4 g). Yield: 0.05 g. MS m/z (relative intensity, 70 eV) 245 (M+, bp), 226 (21), 167 (25), 140 (15), 56 (42).

reactant | 4-[2-methoxy-3-(trifluoromethyl)phenyl]piperidine | 0.27 mmol, 0.07 g | COC1=C(C=CC=C1C(F)(F)F)C1CCNCC1 | C13H16F3NO
reactant | pyridine hydrochloride | 0.4 g | Cl.N1=CC=CC=C1
product | 2-PIPERIDIN-4-YL-6-(TRIFLUOROMETHYL)PHENOL | N1CCC(CC1)C1=C(C(=CC=C1)C(F)(F)F)O | C12H14F3NO
